US03954763
N-(m-trifluoromethylthiophenyl)-piperazine (7 g, 0.0267 g mol.) and freshly distilled methyl acrylate (2.55 g, 0.0295 g mol.) are introduced in a 50 ml round bottomed flask provided with a stirrer and reflux condenser. The temperature rises slightly. The mixture is allowed to cool and 0.1 ml of a 40% solution of benzyltrimethylammonium hydroxide in methyl alcohol is then added with stirring. The mixture is allowed to stand for 2 days at ambient temperature. Boiling isopropyl alcohol (60 ml) is then added and the mixture is acidified by addition of concentrated hydrochloric acid (2.3 ml). The solvents are removed on a water-bath in vacuo and the residue is treated twice with benzene (50 ml each time) which is distilled off to remove water azeotropically. The residue is then taken up in isopropyl alcohol (50 ml) and the solution is filtered hot and allowed to stand several hours in a refrigerator. The precipitate formed is separated and dried in vacuo over phosphorous pentoxide. N-(β-methoxycarbonyl-ethyl)-N'-(m-trifluoromethylthiophenyl)-piperazine hydrochloride (8.2 g, 80% yield) is thus obtained as a white crystalline powder, m.p. 180°C, soluble in water.

reactant | N-(m-trifluoromethylthiophenyl)-piperazine | 7 g | FC(SC=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2S
reactant | methyl acrylate | 2.55 g | C(C=C)(=O)OC | C4H6O2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | hydrochloric acid | 2.3 ml | Cl | ClH
solvent | methyl alcohol | CO | CH4O
solvent | water | O | H2O
solvent | isopropyl alcohol | 60 ml | C(C)(C)O | C3H8O
product | N-(β-methoxycarbonyl-ethyl)-N'-(m-trifluoromethylthiophenyl)-piperazine hydrochloride | 8.2 g, 80% yield | Cl.COC(=O)CCN1CCN(CC1)C1=CC(=CC=C1)SC(F)(F)F | InChI=1S/C15H19F3N2O2S.ClH/c1-22-14(21)5-6-19-7-9-20(10-8-19)12-3-2-4-13(11-12)23-15(16,17)18;/h2-4,11H,5-10H2,1H3;1H
